US06953790B2
Step D. N-[5-(2,3-Difluorophenyl)-1-(2-methoxyethyl)-2-oxopiperidin-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (83 μL, 0.598 mmol) was added to a solution of 3-amino-5-(2,3-difluorophenyl)-1-(2-methoxyethyl)piperidin-2-one (170 mg, 0.598 mmol) and 4-nitrophenylchloroformate (121 mg, 0.598 mmol) in tetrahydrofuran (4 mL) at 0° C. After 1 h, 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (174 mg, 0.651 mmol), triethylamine (249 μL, 1.794 mmol) were added and the mixture allowed to warm to ambient temperature. After 18 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate (3×), saturated brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography [100% dichloromethane→95% dichloromethane/5% (10% ammonium hydroxide/methanol)] gave the title compound (0.135 g). MS 529.2353 (M+1). 1H NMR (500 MHz, CDCl3) δ 8.03 (dd, J=5.3, 1.1 Hz, 1H), 7.38 (dd, J=7.8, 1.2 Hz, 1H), 7.11-7.03 (m, 2H), 7.01-6.96 (m, 2H), 5.82 (d, J=3.4 Hz, 1H), 4.58-4.53 (m, 1H), 4.34-4.30 (m, 1H), 4.23 (d, J=6.6 Hz, 2H), 3.71-3.62 (m, 3H), 3.60-3.53 (m, 3H), 3.52-3.46 (m, 1H), 3.33 (s, 3H), 2.96 (dd, J=23.4, 10.5 Hz, 2H), 2.80-2.78 (m, 1H), 2.28-2.21 (m, 2H), 1.90 (dd, J=10.5, 2.0 Hz, 2H).

reactant | Triethylamine | 0.598 mmol, 83 μL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-5-(2,3-difluorophenyl)-1-(2-methoxyethyl)piperidin-2-one | 0.598 mmol, 170 mg | NC1C(N(CC(C1)C1=C(C(=CC=C1)F)F)CCOC)=O | C14H18F2N2O2
reactant | 4-nitrophenylchloroformate | 0.598 mmol, 121 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.651 mmol, 174 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | triethylamine | 1.794 mmol, 249 μL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N-[5-(2,3-Difluorophenyl)-1-(2-methoxyethyl)-2-oxopiperidin-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 0.135 g | FC1=C(C=CC=C1F)C1CC(C(N(C1)CCOC)=O)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C26H30F2N6O4
